US05350748
To a suspension of 3-chloro-5-methoxybenzo[b]thiophene-2-carbonyl chloride (1.52 g, 5.82 mmol) [Connor D. T., et al., J. Med. Chem. 35, 935 (1992)] in 80 mL of toluene at 50° C. is added dropwise 10 mL of aqueous NH4OH. The resulting precipitate is collected by filtration and recrystallized from methanol to provide 3-chloro-5-methoxybenzo[b]thiophene2-carboxamide; mp=220°-222° C.

reactant | 3-chloro-5-methoxybenzo[b]thiophene-2-carbonyl chloride | 5.82 mmol, 1.52 g | ClC=1C2=C(SC1C(=O)Cl)C=CC(=C2)OC | C10H6Cl2O2S
reactant | NH4OH | 10 mL | [NH4+].[OH-]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-5-methoxybenzo[b]thiophene2-carboxamide | ClC=1C2=C(SC1C(=O)N)C=CC(=C2)OC | C10H8ClNO2S
